* =============================================================================
* run_E_ext_scaled_04v.cir — FUSED_E Schematic + Scaled Parasitic Caps, 0.40V
* =============================================================================
* 38T OAI22+NOR fused Hamming cell (4 INV + 2 OAI22 + NOR2 + NAND2+INV + NOR2)
* Outputs: oh0 (hd=0), oh1 (hd=1), oh2 (hd=2) — one-hot
* ASAP5 SLVT, nfin=2, VDD=0.40V
* Parasitic loading from FUSED_E_scaled.spice added as lumped output caps
* Run:  Xyce run_E_ext_scaled_04v.cir
* =============================================================================

.include '/Users/bruce/CLAUDE/asap5/spice/xyce_models/nmos_slvt_tt_cal.pm'
.include '/Users/bruce/CLAUDE/asap5/spice/xyce_models/pmos_slvt_tt_cal.pm'

.OPTIONS DEVICE GMIN=1e-12
.OPTIONS NONLIN RELTOL=1e-4 ABSTOL=1e-9
.OPTIONS TIMEINT METHOD=trap RELTOL=1e-3 ABSTOL=1e-12
.OPTIONS MEASURE MEASDGT=5

* --- Supply ---
Vvdd Vdd 0 0.40
Vgnd Gnd 0 0

* --- Stimulus: 4 input vectors sequentially ---
* 0-200ps:   ai=0 bi=0 aj=0 bj=0 -> hd=0 (oh0=1, oh1=0, oh2=0)
* 200-400ps: ai=1 bi=0 aj=0 bj=0 -> hd=1 (oh0=0, oh1=1, oh2=0)
* 400-600ps: ai=1 bi=0 aj=1 bj=0 -> hd=2 (oh0=0, oh1=0, oh2=1)
* 600-800ps: ai=0 bi=0 aj=1 bj=0 -> hd=1 (oh0=0, oh1=1, oh2=0)
Vin_ai ai 0 PWL(0 0 190p 0 200p 0.4 590p 0.4 600p 0 800p 0)
Vin_bi bi 0 DC 0
Vin_aj aj 0 PWL(0 0 390p 0 400p 0.4 800p 0.4)
Vin_bj bj 0 DC 0

* =============================================================================
* FUSED_E subcircuit — SLVT, nfin=2, VDD=0.40V
* =============================================================================
* --- Input inverters (8T) ---
Mn_iai nai ai Gnd Gnd nmos_slvt l=16n nfin=2
Mp_iai nai ai Vdd Vdd pmos_slvt l=16n nfin=2
Mn_ibi nbi bi Gnd Gnd nmos_slvt l=16n nfin=2
Mp_ibi nbi bi Vdd Vdd pmos_slvt l=16n nfin=2
Mn_iaj naj aj Gnd Gnd nmos_slvt l=16n nfin=2
Mp_iaj naj aj Vdd Vdd pmos_slvt l=16n nfin=2
Mn_ibj nbj bj Gnd Gnd nmos_slvt l=16n nfin=2
Mp_ibj nbj bj Vdd Vdd pmos_slvt l=16n nfin=2

* --- XOR0 via OAI22: x0 = ai^bi (8T) ---
Mp_q0_1 x0 nai q0pm1 Vdd pmos_slvt l=16n nfin=2
Mp_q0_2 q0pm1 nbi Vdd Vdd pmos_slvt l=16n nfin=2
Mp_q0_3 x0 ai q0pm2 Vdd pmos_slvt l=16n nfin=2
Mp_q0_4 q0pm2 bi Vdd Vdd pmos_slvt l=16n nfin=2
Mn_q0_1 q0nmid nai Gnd Gnd nmos_slvt l=16n nfin=2
Mn_q0_2 q0nmid nbi Gnd Gnd nmos_slvt l=16n nfin=2
Mn_q0_3 x0 ai q0nmid Gnd nmos_slvt l=16n nfin=2
Mn_q0_4 x0 bi q0nmid Gnd nmos_slvt l=16n nfin=2

* --- XOR1 via OAI22: x1 = aj^bj (8T) ---
Mp_q1_1 x1 naj q1pm1 Vdd pmos_slvt l=16n nfin=2
Mp_q1_2 q1pm1 nbj Vdd Vdd pmos_slvt l=16n nfin=2
Mp_q1_3 x1 aj q1pm2 Vdd pmos_slvt l=16n nfin=2
Mp_q1_4 q1pm2 bj Vdd Vdd pmos_slvt l=16n nfin=2
Mn_q1_1 q1nmid naj Gnd Gnd nmos_slvt l=16n nfin=2
Mn_q1_2 q1nmid nbj Gnd Gnd nmos_slvt l=16n nfin=2
Mn_q1_3 x1 aj q1nmid Gnd nmos_slvt l=16n nfin=2
Mn_q1_4 x1 bj q1nmid Gnd nmos_slvt l=16n nfin=2

* --- OH2: NOR2(x0,x1) (4T) ---
Mp_o2_1 o2ps x0 Vdd Vdd pmos_slvt l=16n nfin=2
Mp_o2_2 oh2 x1 o2ps Vdd pmos_slvt l=16n nfin=2
Mn_o2_1 oh2 x0 Gnd Gnd nmos_slvt l=16n nfin=2
Mn_o2_2 oh2 x1 Gnd Gnd nmos_slvt l=16n nfin=2

* --- OH0: NAND2(x0,x1) via NOR+INV (6T) ---
Mp_n0_1 no0 x0 Vdd Vdd pmos_slvt l=16n nfin=2
Mp_n0_2 no0 x1 Vdd Vdd pmos_slvt l=16n nfin=2
Mn_n0_1 no0 x0 n0ns Gnd nmos_slvt l=16n nfin=2
Mn_n0_2 n0ns x1 Gnd Gnd nmos_slvt l=16n nfin=2
Mn_io0 oh0 no0 Gnd Gnd nmos_slvt l=16n nfin=2
Mp_io0 oh0 no0 Vdd Vdd pmos_slvt l=16n nfin=2

* --- OH1: NOR2(oh0,oh2) (4T) ---
Mp_o1_1 o1ps oh0 Vdd Vdd pmos_slvt l=16n nfin=2
Mp_o1_2 oh1 oh2 o1ps Vdd pmos_slvt l=16n nfin=2
Mn_o1_1 oh1 oh0 Gnd Gnd nmos_slvt l=16n nfin=2
Mn_o1_2 oh1 oh2 Gnd Gnd nmos_slvt l=16n nfin=2

* --- Output loads (1fF functional + extracted parasitic) ---
CL_oh0 oh0 0 1f
CL_oh1 oh1 0 1f
CL_oh2 oh2 0 1f

* --- Scaled parasitic caps from layout extraction ---
Cext_oh0 oh0 0 2.06f
Cext_oh1 oh1 0 1.65f

* =============================================================================
* Analysis
* =============================================================================
.TRAN 1p 800p

.PRINT TRAN V(ai) V(bi) V(aj) V(bj) V(oh0) V(oh1) V(oh2) I(Vvdd)

* --- OH0 transitions ---
.MEASURE TRAN tphl_oh0_1 TRIG V(ai) VAL=0.2 RISE=1 TARG V(oh0) VAL=0.2 FALL=1
.MEASURE TRAN tplh_oh0_1 TRIG V(ai) VAL=0.2 FALL=1 TARG V(oh0) VAL=0.2 RISE=1

* --- OH1 transitions ---
.MEASURE TRAN tplh_oh1_1 TRIG V(ai) VAL=0.2 RISE=1 TARG V(oh1) VAL=0.2 RISE=1
.MEASURE TRAN tphl_oh1_1 TRIG V(aj) VAL=0.2 RISE=1 TARG V(oh1) VAL=0.2 FALL=1
.MEASURE TRAN tplh_oh1_2 TRIG V(ai) VAL=0.2 FALL=1 TARG V(oh1) VAL=0.2 RISE=2

* --- OH2 transitions ---
.MEASURE TRAN tplh_oh2_1 TRIG V(aj) VAL=0.2 RISE=1 TARG V(oh2) VAL=0.2 RISE=1
.MEASURE TRAN tphl_oh2_1 TRIG V(ai) VAL=0.2 FALL=1 TARG V(oh2) VAL=0.2 FALL=1

* --- Steady-state verification ---
.MEASURE TRAN v_oh0_hd0 FIND V(oh0) AT=180p
.MEASURE TRAN v_oh1_hd0 FIND V(oh1) AT=180p
.MEASURE TRAN v_oh2_hd0 FIND V(oh2) AT=180p
.MEASURE TRAN v_oh0_hd1a FIND V(oh0) AT=380p
.MEASURE TRAN v_oh1_hd1a FIND V(oh1) AT=380p
.MEASURE TRAN v_oh2_hd1a FIND V(oh2) AT=380p
.MEASURE TRAN v_oh0_hd2 FIND V(oh0) AT=580p
.MEASURE TRAN v_oh1_hd2 FIND V(oh1) AT=580p
.MEASURE TRAN v_oh2_hd2 FIND V(oh2) AT=580p
.MEASURE TRAN v_oh0_hd1b FIND V(oh0) AT=780p
.MEASURE TRAN v_oh1_hd1b FIND V(oh1) AT=780p
.MEASURE TRAN v_oh2_hd1b FIND V(oh2) AT=780p

.MEASURE TRAN i_avg AVG I(Vvdd) FROM=0 TO=800p

.END
